US04486428
Methyl dl-3-[5-acetoxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran-3-yl]propionate, 4.68 g (0.01 mole), is dissolved in methanol and anhydrous ammonia is passed through the mixture at room temperature. The resulting mixture is heated at reflux for two hours while passing ammonia through it. After standing overnight the volatiles are removed by evaporation and the residue purified by column chromatography on silica gel to provide dl-3-[5-hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran-3-yl]propionamide.

reactant | 3-[5-acetoxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran-3-yl]propionate | C(C)(=O)OC1=CC(=CC2=C1CC(C(O2)(C)C)CCC(=O)[O-])OC(C)CCCC2=CC=CC=C2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 3-[5-hydroxy-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran-3-yl]propionamide | OC1=CC(=CC2=C1CC(C(O2)(C)C)CCC(=O)N)OC(C)CCCC2=CC=CC=C2 | C25H33NO4
